US07122543B2
Methyl 4-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoate
4-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoic acid (525 mg, 1.1615 mmol) was dissolved in methanol (20 ml), trimethylsilyl diazomethane (15.9 g, 10% solution in hexane, 13.9473 mmol) was added thereto under cooling with ice and the mixture was stirred at room temperature for 2 hours. To the reaction solution was added acetic acid (2 ml) and the mixture was allowed to stand so as to decompose an excessive reagent. The reaction solution was concentrated to give the title compound (530 mg, 1.1373 mmol, 98%).

reactant | 4-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoic acid | 1.1615 mmol, 525 mg | COC=1C(=C(CC2=CC(=C(C(=O)O)C=C2)OCC2=CC=CC=C2)C(=C(C1OC)OC)OC)C | C26H28O7
reactant | trimethylsilyl diazomethane | 13.9473 mmol, 15.9 g | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 20 ml | CO | CH4O
product | Methyl 4-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoate | 1.1373 mmol, 530 mg, 98% | COC=1C(=C(CC2=CC(=C(C(=O)OC)C=C2)OCC2=CC=CC=C2)C(=C(C1OC)OC)OC)C | C27H30O7
